US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-N-cyclopropyl-N-(3,5-dimethoxy-benzyl)-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid with cyclopropyl-(3,5-dimethoxy-benzyl)-amine

reactant | [(4-tert-butyl-benzenesulfonyl)-quinolin-6-yl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C=1C=C2C=CC=NC2=CC1)CC(=O)O | C21H22N2O4S
reactant | cyclopropyl-(3,5-dimethoxy-benzyl)-amine | C1(CC1)NCC1=CC(=CC(=C1)OC)OC | C12H17NO2
product | 2-[(4-tert-Butyl-benzenesulfonyl)-quinolin-6-yl-amino]-N-cyclopropyl-N-(3,5-dimethoxy-benzyl)-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=CC(=CC(=C1)OC)OC)C1CC1)C=1C=C2C=CC=NC2=CC1 | C33H37N3O5S
